US07838675B2
iv) N-[2-[[(2,3-difluorophenyl)methyl]thio]-6-[(2-phenyl-1,3-dioxan-5-yl)oxy]-4-pyrimidinyl]-1-azetidinesulfonamide
A mixture of azetidine-1-sulphonamide (420 mg), tris(dibenzylideneacetone)dipalladium (0) (71 mg), 2-dicyclohexylphosphino-2′,4′,6′-tri-isopropyl-1,1′-biphenyl (XPHOS) (37 mg), cesium carbonate (380 mg) and 4-chloro-2-[[(2,3-difluorophenyl)methyl]thio]-6-[(2-phenyl-1,3-dioxan-5-yl)oxy]-pyrimidine (350 mg) in anhydrous dioxane (8 ml) was heated to reflux in a microwave at 100° C., 300 W, open vessel with cooling for 10 minutes. The reaction mixture was diluted with methylene chloride, filtered through arbocel and the filtrate evaporated. The residue was purified by column chromatography on silica using a 80:20 to 70:30 mixture of iso-hexane and ethyl acetate as eluent to give the sub-title compound as a white solid.

reactant | azetidine-1-sulphonamide | 420 mg | N1(CCC1)S(=O)(=O)N | C3H8N2O2S
reactant | 2-dicyclohexylphosphino-2′,4′,6′-tri-isopropyl-1,1′-biphenyl | 37 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | cesium carbonate | 380 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-chloro-2-[[(2,3-difluorophenyl)methyl]thio]-6-[(2-phenyl-1,3-dioxan-5-yl)oxy]-pyrimidine | 350 mg | ClC1=NC(=NC(=C1)OC1COC(OC1)C1=CC=CC=C1)SCC1=C(C(=CC=C1)F)F | C21H17ClF2N2O3S
solvent | dioxane | 8 ml | O1CCOCC1 | C4H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | tris(dibenzylideneacetone)dipalladium | 71 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-[2-[[(2,3-difluorophenyl)methyl]thio]-6-[(2-phenyl-1,3-dioxan-5-yl)oxy]-4-pyrimidinyl]-1-azetidinesulfonamide | FC1=C(C=CC=C1F)CSC1=NC(=CC(=N1)NS(=O)(=O)N1CCC1)OC1COC(OC1)C1=CC=CC=C1 | C24H24F2N4O5S2
